US07144899B2
To a stirred solution of 1-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)phenyl]methanamine (28.1 mg, 0.11 mmol), 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-proline (prepared by standard peptide coupling protocols, 38.3 mg, 0.11 mmol) and HOAt (19.1 mg, 0.14 mmol) in DMF (1.0 mL) was added EDC (26.9 g, 0.14 mmol). After 16 h the mixture was partitioned between EtOAc and water. The organic phase was washed with brine dried (Na2SO4) and reduced in vacuo. The residue was purified by HPLC (C18 eluting with an acetonitrile/water/0.1% TFA gradient). 1-{(2R)-2-[(tert-Butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide was obtained as a solid. LCMS m/z=596.5.

reactant | 1-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)phenyl]methanamine | 0.11 mmol, 28.1 mg | ClC=1C=CC(=C(C1)CN)C1=NSN=C1Cl | C9H7Cl2N3S
reactant | 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-proline | 0.11 mmol, 38.3 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)O)CCC1)C1CCCCC1 | C18H30N2O5
reactant | HOAt | 0.14 mmol, 19.1 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.14 mmol, 26.9 g
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 1-{(2R)-2-[(tert-Butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C2=NSN=C2Cl)CCC1)C1CCCCC1 | C27H35Cl2N5O4S
